US06121322
Diethyl 2-amino-6-[(2-hydroxy-ethoxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate
In an analogous manner to that described in Example 1, from diethyl 2-amino-6-[(hydroxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate sodium and 2-bromoethanol the title compound of m.p. 190-192° C. is obtained in 15% yield.

reactant | diethyl 2-amino-6-[(hydroxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate sodium | [Na].NC1=C(C2=CC=C(C=CC2=C1C(=O)OCC)CC(NO)=O)C(=O)OCC
reactant | 2-bromoethanol | BrCCO | C2H5BrO
product | Diethyl 2-amino-6-[(2-hydroxy-ethoxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate | 15% yield | NC1=C(C2=CC=C(C=CC2=C1C(=O)OCC)CC(NOCCO)=O)C(=O)OCC | C20H24N2O7
